Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
___ Complaint:
shortness of breath
 
Major Surgical or Invasive Procedure:
Pulmonary vein isolation abaltion

 
History of Present Illness:
Patient is a ___ male with a history of DM, HL, CM, CAD 
s/p PCIs and atrial fibrillation. In ___ he was 
referred back to the ___ cath lab because of symptoms of 
shortness of breath and congestive heart failure. Cardiac 
catheterization on ___ did not reveal any significant  
obstructive CAD. RVEDP was noted at 33 mmHG with a mean wedge of 
 
32 mmHG. There was severe pulmonary artery hypertension. He was  

diuresed at that time. Stress testing in ___ had 
revealed a predominantly fixed inferior apical defect with an 
LVEF of 46% and somewhat dilated LV chamber.  

The patient presented for Afib ablation today. Patient underwent 
PVI with additional lines and failed cardioversion. He was given 
1mg ibutilide and developed QT prolongation to 800ms which 
transitioned to vfib. He was shocked and rhythm became sinus and 
then slow afib. He was admitted to the CCU for close monitoring. 
 

On review of systems, he denies SOB, CP, ___ pain, 
numbness/tingling, lightheadedness. Reports had been in USOH 
prior to this elective procedure.  

 
Past Medical History:
CAD, s/p LAD stenting and diagonal PTCA/stenting to LAD and D1  
Hyperlipidemia  
Diabetes  
Cardiomyopathy  
? GERD  
Removal of colon polyps  
___- Surgical repair of an AV fistula in the left posterior  
thigh/buttock  
Atrial fibrillation (now chronic), s/p multiple prior  
cardioversions  
___- Right hip replacement  
Arthritis of spine  
Congestive heart failure  

 
Social History:
___
Family History:
(-) FHx CAD 
 
Physical Exam:
GENERAL: Middle aged man, flat in bed. NAD  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

NECK: Unable to appreciate JVP, thick neck.  
CARDIAC: Irregularly irregular, no MRG. Nl S1, S2.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominial bruits.  
EXTREMITIES: B/l femoral vein sheaths in place. No palpable 
hematoma. Sl ooze. Sensation intact distally.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  
Right: DP 2+ ___ 2+  
Left: DP 2+ ___ 2+  

 
Pertinent Results:
labs-

___ 07:05AM BLOOD WBC-11.1* RBC-5.12 Hgb-14.6 Hct-41.4 
MCV-81* MCH-28.6 MCHC-35.3* RDW-16.0* Plt ___
___ 03:19PM BLOOD WBC-12.7* RBC-4.45* Hgb-12.5* Hct-35.6* 
MCV-80* MCH-28.1 MCHC-35.1* RDW-16.2* Plt ___
___ 09:42PM BLOOD Hct-39.2*
___ 03:51AM BLOOD Hct-35.9*
___ 07:05AM BLOOD Neuts-73.0* Lymphs-17.9* Monos-4.8 
Eos-3.5 Baso-0.8
___ 07:05AM BLOOD ___
___ 03:51AM BLOOD ___
___ 07:05AM BLOOD Glucose-231* UreaN-50* Creat-1.4* Na-130* 
K-6.6* Cl-87* HCO3-33* AnGap-17
___ 03:51AM BLOOD Glucose-254* UreaN-36* Creat-1.1 Na-129* 
K-3.7 Cl-91* HCO3-31 AnGap-11
___ 03:19PM BLOOD Calcium-8.5 Phos-3.6 Mg-2.0
___ 03:51AM BLOOD Calcium-8.2* Phos-2.6* Mg-1.___ yo m with CAD and chronic afib admitted for cardioversion. 

# Atrial fibrillation: (see HPI for more details) Went for PVI 
with ablation, was unsuccessful. He was given 1mg ibutilide and 
developed QT prolongation to 800ms which transitioned to vfib. 
He was shocked and rhythm became sinus and then slow afib. At 
discharge he was still in slow afib. He was started on amio 
400mg BID x 1 week, 400mg Qday x 1 week, then 200mg. Also on CCB 
and dig home doses. Restarted on coumadin at discharge, but 
subtheraputic. Was started on lovenox bridge with 60mg BID. Will 
have INR checked in 2 days. Plan for out pt f/u with MRI to 
evaluate pulmonary veins and then out pt cardioversion with Dr. 
___. Will also have follow up with his regular 
cardiologist and PCP. 

# Coronary artery disease: Had known CAD, s/p PCI x ___, cath 
in ___ revealed no flow limiting disease. Was stable during 
admission.   
-Continue ASA, statin, BB, ACEI  
-Cardiac diet  

# chronic systolic HF: Last EF based on MR was 45% with mildly 
increased cavity size and mild global hypokinesis. Was stable 
during admission. Continued on home lasix, metazolone, 
spironolactone.  
  
# Hypotension: Pt has HTN at baseline. Post-procedure SBPs in 
___. Given one 500cc bolus of NS. HR in 60-70s at time. Pulsus 
10mmHg. Asymptomatic. Potentially vagal rxn. Hcts were stable 
and blood pressure improved before discharge, home meds were 
restarted.

# DM- was on sliding scale insulin, was restarted on Lantus, but 
the dose was increased to 24units in the morning. Glyburide was 
stopped due to possiblly causing arrythmias.  Instead he was 
started on Metformin 500mg BID.

 
Medications on Admission:
Carvedilol 12.5mg twice a day  
Digoxin .125mg daily every afternoon  
Diltiazem 120mg daily every morning  
Furosemide 80mg daily  
Glyburide 5mg two tablets twice a day  
Lantus insulin 20 units every morning  
Lisinopril daily (unknown dosing)  
Metolazone 2.5mg daily  
KCL daily (unknown dosing)  
Spironolactone 25mg daily every morning  
Coumadin 4mg alternating with 5mg, last dose ___  
Vitamin C 500mg daily  
Aspirin 325mg daily  
Vitamin B complex one daily  
MVI  

 
Discharge Medications:
1. Enoxaparin 60 mg/0.6 mL Syringe Sig: One (1)  Subcutaneous 
BID (2 times a day) for 7 days: take until instructed to stop by 
your INR clnic.
Disp:*14 syninges* Refills:*1*
2. Amiodarone 200 mg Tablet Sig: Two (2) Tablet PO BID (2 times 
a day): 2 pills twice a day for 7 days, then two pills once a 
day for 3 weeks, then continue on one pill once a week.
Disp:*70 Tablet(s)* Refills:*2*
3. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q4H (every 
4 hours) as needed for fever, pain.  
4. Digoxin 125 mcg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

5. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
6. Lisinopril 5 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).  
7. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
8. B-Complex with Vitamin C     Tablet Sig: One (1) Cap PO DAILY 
(Daily).  
9. Carvedilol 12.5 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day). Tablet(s) 
10. Ascorbic Acid ___ mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
11. Spironolactone 25 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
12. Insulin Glargine 100 unit/mL Solution Sig: ___ (24) 
units Subcutaneous once a day: in the morning.  
13. Diltiazem HCl 120 mg Capsule, Sustained Release Sig: One (1) 
Capsule, Sustained Release PO DAILY (Daily).  
14. Furosemide 80 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
15. Coumadin 2 mg Tablet Sig: Two (2) Tablet PO once a day: 
alternate 2 pills with 2.5 pills.
Disp:*75 Tablet(s)* Refills:*2*
16. Metolazone 2.5 mg Tablet Sig: One (1) Tablet PO once a day.  

17. Outpatient Lab Work
please check on ___ INR, 
please fax result to PCP,
goal INR ___. Metformin 500 mg Tablet Sig: One (1) Tablet PO twice a day.
Disp:*60 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Atrial fibrillation, s/p ablation
CAD, s/p LAD stent and diagonal PTCA/stenting
Diabetes
GERD
Cardiomyopathy
Congestive heart failure, systolic, chronic

 
Discharge Condition:
Hemodynamically stable, afebrile

 
Discharge Instructions:
You were admitted to ___ for a cardioversion. You had the 
cardioversion, but the cardiologist was not able to albate the 
cause of your a fib. Your heart rate became more irregular 
during the procedure and you had to be shocked. You were started 
on a medication called amiodarone for your afib and you will see 
Dr. ___ in one ___ weeks to have a cardioversion after 
your MRI. You will have a cardiac MRI to evaluate your heart's 
blood vessels, call ___ to schedule.

If you have chest pain, shortnes of breath, groin pain or 
swelling or other concerning symptoms please seek medical 
attention. 

Please follow activiy, wound, and medication guidelines as 
discussed.

Your new medication amiodarone will be 400mg twice a day for a 
week (starting on ___, then 400mg once a day until your 
appointment with ___ in 1 month. Then he will adjust the 
dose. 

Your insulin was increased to 24units in the morning and your 
glyburide was changed to metformin.

You are also being sent home on a heart monitor, please follow 
the instructions provided.

You were started on Lovenox injections to thin your blood as 
your coumadin levele are increased. Please take Coumadin as 
ordered and get INR on ___ with ___ further 
Coumadin dose. Take your lovenox until instructed to stop.
 
Followup Instructions:
___